US20010012897A1
3-Chloro-2-n-propylsulfinyl-5-trifluoromethylpyridine
8.4 g (0.124 mol) of 50% strength hydrogen peroxide were added with stirring at 15-20° C. in the course of 15 minutes to a mixture of 31 g (0.1213 mol) of 3-chloro-2-n-propylthio-5-trifluoromethylpyridine in 150 ml of acetic acid, during which process the temperature rose to 27° C. in the course of 6 hours. After the reaction mixture had been stirred for 14 hours at 25° C., it was poured into ice-water and extracted 3 times with methylene chloride. The organic phase was washed with water and saturated sodium hydrogen carbonate solution, dried and concentrated in vacuo, yielding 32 g (97.2% of theory) of the title compound of m.p. 51-53° C.

reactant | hydrogen peroxide | OO | H2O2
reactant | 3-chloro-2-n-propylthio-5-trifluoromethylpyridine | 0.1213 mol, 31 g | ClC=1C(=NC=C(C1)C(F)(F)F)SCCC | C9H9ClF3NS
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 3-Chloro-2-n-propylsulfinyl-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)S(=O)CCC | C9H9ClF3NOS
